US08431695B2
Preparation of 5-(2-benzyl-2H-indazol-6-yl)-7-[(4-cyclopropylmorpholin-3-yl)methyl]pyrrolo[2,1-f][1,2,4]triazin-4-amine
To a solution of 5-(2-benzyl-2H-indazol-6-yl)-7-(morpholin-3-ylmethyl)pyrrolo[2,1-f][1,2,4]triazin-4-amine (100 mg, 0.23 mmol) in MeOH (2.0 mL) containing 3 Å molecular sieves was added AcOH (130 μL, 2.28 mmol), [(1-ethoxycyclopropyl)oxy]trimethylsilane (238 mg, 1.37 mmol) and sodium cyanoborohydride (64 mg, 1.02 mmol). The reaction was stirred at 60° C. for 17 h. Aqueous NaOH (1N, 15 mL) was added and the mixture was extracted with EtOAc (3×15 mL). The combined organic layers were washed with brine, dried (Na2SO4) and concentrated. The residue was purified by preparative HPLC using a gradient elution from 15% to 45% acetonitrile in water followed by filtration through an acidic resin, washing with MeOH. The product was eluted with 2M NH3 in MeOH and the filtrate was concentrated to provide 48 mg (44%) of the desired product. 1H NMR (400 MHz, DMSO-d6) δ 8.54 (s, 1 H), 7.91 (s, 1 H), 7.79 (d, 1 H), 7.59 (s, 1 H), 7.26-7.41 (m, 5 H), 7.14 (d, 1 H), 6.63 (s, 1 H), 5.65 (s, 2 H), 3.55-3.65 (m, 2 H), 3.44-3.52 (m, 1 H), 3.30-3.41 (m, 1 H), 3.19-3.28 (m, 1 H), 2.80-2.96 (m, 3 H), 2.34-2.44 (m, 1 H), 1.77-1.86 (m, 1 H), 0.23-0.64 (m, 4 H); ES-MS m/z 480.13 [M+H]+, HPLC RT (min) 2.19.

reactant | 5-(2-benzyl-2H-indazol-6-yl)-7-(morpholin-3-ylmethyl)pyrrolo[2,1-f][1,2,4]triazin-4-amine | 0.23 mmol, 100 mg | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)CC2NCCOC2 | C25H25N7O
reactant | AcOH | 2.28 mmol, 130 μL | CC(=O)O | C2H4O2
reactant | [(1-ethoxycyclopropyl)oxy]trimethylsilane | 1.37 mmol, 238 mg | C(C)OC1(CC1)O[Si](C)(C)C | C8H18O2Si
reactant | sodium cyanoborohydride | 1.02 mmol, 64 mg | C(#N)[BH3-].[Na+]
reactant | NaOH | 1N, 15 mL | [OH-].[Na+]
solvent | MeOH | 2.0 mL | CO | CH4O
product | 5-(2-benzyl-2H-indazol-6-yl)-7-[(4-cyclopropylmorpholin-3-yl)methyl]pyrrolo[2,1-f][1,2,4]triazin-4-amine | 48 mg, 44% | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)CC2N(CCOC2)C2CC2 | C28H29N7O
